US06734180B1
Using 2-(tert-butoxycarbonylamino)-4-hydroxyindan (110 mg, 0.45 mmol) instead of 2-(tert-butoxycarbonylamino)-5-hydroxyindan, pyridine, (0.5 ml), and trifluoromethanesulfonic anhydride (91 μl, 0.54 mmol), a similar procedure to a) in Preparation Example 2 was carried out. The product was purified by silica gel chromatography (hexane:ethyl acetate=3:1) to obtain 2-(tert-butoxycarbonylamino)-4-trifluoromethanesulfonyloxyindan (130 mg, 0.35 mmol).

reactant | 2-(tert-butoxycarbonylamino)-4-hydroxyindan | 0.45 mmol, 110 mg | C(C)(C)(C)OC(=O)NC1CC2=CC=CC(=C2C1)O | C14H19NO3
reactant | trifluoromethanesulfonic anhydride | 0.54 mmol, 91 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | 2-(tert-butoxycarbonylamino)-4-trifluoromethanesulfonyloxyindan | 0.35 mmol, 130 mg | C(C)(C)(C)OC(=O)NC1CC2=CC=CC(=C2C1)OS(=O)(=O)C(F)(F)F | C15H18F3NO5S
